US09079866B2
6-Amino-3-[3-fluoro-2′-(methylsulfonyl)biphenyl-4-yl]pyrazine-2-carbonitrile
The title compound was prepared using analogous conditions to those described in Example 1 using 2-(methylsulfonyl)phenylboronic acid and 5-(4-bromo-2-fluorophenyl)-6-cyanopyrazin-2-amine. MS (ESI): mass calcd. for C18H13FN4O2S, 368.07; m/z found, 369.0 [M+H]+. 1H NMR (500 MHz, DMSO-d6) δ 8.26 (s, 1H), 8.13 (dd, J=8.0, 1.4, 1H), 7.84-7.77 (m, 1H), 7.76-7.70 (m, 1H), 7.69-7.62 (m, 1H), 7.51 (dd, J=7.6, 1.4, 1H), 7.46 (dd, J=11.0, 1.6, 1H), 7.42-7.35 (m, 3H), 2.97 (s, 3H).

reactant | 2-(methylsulfonyl)phenylboronic acid | CS(=O)(=O)C1=C(C=CC=C1)B(O)O | C7H9BO4S
reactant | 5-(4-bromo-2-fluorophenyl)-6-cyanopyrazin-2-amine | BrC1=CC(=C(C=C1)C=1N=CC(=NC1C#N)N)F | C11H6BrFN4
product | 6-Amino-3-[3-fluoro-2′-(methylsulfonyl)biphenyl-4-yl]pyrazine-2-carbonitrile | NC1=CN=C(C(=N1)C#N)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C)F | C18H13FN4O2S
